US09284323B2
Preparation of ethyl 2-(6-bromo-3-methyl-1-(trifluoromethylsulfonyloxy)-naphthalen-2-yl)-2-oxoacetate:
To a solution of ethyl 2-(6-bromo-3-methyl-1-(trifluoromethylsulfonyloxy)naphthalen-2-yl)-2-hydroxyacetate (2.19 g, 4.65 mmol) in anhydrous dichloromethane (50 mL) at 0° C. was added Dess-Martin Periodinane (2.76 g, 6.51 mmol) portion-wise over 5 minutes. The reaction mixture was stirred at 0° C. for 1 hour and quenched with sodium thiosulfate solution and saturated sodium bicarbonate solution and stirred for 30 minutes. The mixture was diluted with ethyl ether and washed with saturated sodium bicarbonate solution (3×), brine and dried (MgSO4), filtered, concentrated to give a yellow oil with a white precipitate. The mixture was suspended in diethyl ether, washed with brine, dried (MgSO4), filtered, concentrated and purified by flash column chromatography (silica gel, 0 to 10% ethyl acetate/hexanes) to give the desired compound.

reactant | ethyl 2-(6-bromo-3-methyl-1-(trifluoromethylsulfonyloxy)naphthalen-2-yl)-2-hydroxyacetate | 4.65 mmol, 2.19 g | BrC=1C=C2C=C(C(=C(C2=CC1)OS(=O)(=O)C(F)(F)F)C(C(=O)OCC)O)C | C16H14BrF3O6S
reactant | Dess-Martin Periodinane | 6.51 mmol, 2.76 g | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
solvent | diethyl ether | C(C)OCC | C4H10O
product | ethyl 2-(6-bromo-3-methyl-1-(trifluoromethylsulfonyloxy)-naphthalen-2-yl)-2-oxoacetate | BrC=1C=C2C=C(C(=C(C2=CC1)OS(=O)(=O)C(F)(F)F)C(C(=O)OCC)=O)C | C16H12BrF3O6S
